US09284315B2
(9) Preparation of tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate
tert-butyl 4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate (0.312 g, 0.77 mmol) was dissolved in dichloromethane (10 mL), to the reaction flask in an ice bath added triphosgene (0.274 g, 0.923 mmol) and triethylamine (0.324 mL). The mixture was stirred at room temperature for 2 h. The reaction was quenched with a saturated aqueous solution of sodium carbonate, and extracted with 80 mL of dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give 0.332 g of a solid. The solid was used directly in the next step.

reactant | tert-butyl 4-((6-chloro-3-((methylamino)methyl)-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate | 0.77 mmol, 0.312 g | ClC=1N=C2C(=C(C=NC2=CC1)CNC)NC1CCN(CC1)C(=O)OC(C)(C)C | C20H28ClN5O2
reactant | triphosgene | 0.923 mmol, 0.274 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.324 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 0.332 g | ClC1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C21H26ClN5O3
